US07399867B2
4-Bromo-2-chloro-1-methanesulfonyl-benzene
Dissolve 4-bromo-2-chloro-1-methylsulfanyl-benzene (4.8 g, 20 mmol) and mCPBA (20 g, 80 mmol) in dichloromethane (100 mL). Stir for 2 hours. Dilute with dichloromethane (300 mL) and water (100 mL). Separate the organic layer and wash with aqueous saturated NaHCO3 (2×100 mL) and brine (100 mL). Dry with MgSO4, filter and concentrate in vacuo. Wash the solid with ether (2×14011) and dichloromethane (10 mL) to give 1.7 g of the title compound (31%).

reactant | 4-bromo-2-chloro-1-methylsulfanyl-benzene | 20 mmol, 4.8 g | BrC1=CC(=C(C=C1)SC)Cl | C7H6BrClS
reactant | mCPBA | 80 mmol, 20 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | water | 100 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 4-Bromo-2-chloro-1-methanesulfonyl-benzene | 1.7 g, 31% | BrC1=CC(=C(C=C1)S(=O)(=O)C)Cl | C7H6BrClO2S
